US04609498
disproportionating 1,5-cyclooctadiene and 1-hexene in the presence of a disproportionation catalyst under disproportionation conditions suitable to give 1,5,9-tetradecatriene,

reactant | 1,5-cyclooctadiene | C1=CCCC=CCC1 | C8H12
reactant | 1-hexene | C=CCCCC | C6H12
product | 1,5,9-tetradecatriene | C=CCCC=CCCC=CCCCC | C14H24
